US04024128
A mixture of 7.5 g. of 3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide, 13.9 g. of potassium carbonate, 9.6 ml. of chloroformic acid ethyl ester and 150 ml. of acetone is heated to reflux for 16 hours while stirring, then cooled to 25° C. and poured on to a mixture of 500 ml. of water and 1000 ml. of chloroform. The pH of the aqueous phase is then brought to 2.0 with 6N sulfuric acid while stirring. The chloroform phase is subsequently separated, dried over sodium sulfate and evaporated in vacuo. The evaporation residue is crystallized by the addition of ether. There is obtained [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester of melting point 140°-141° C.

reactant | 3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide | CN(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)N)C | C13H19N3O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloroformic acid ethyl ester | C(C)OC(=O)Cl | C3H5ClO2
reactant | sulfuric acid | 6N | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester | C(C)OC(NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(C)C)=O)C=C1)=O | C16H23N3O5S
